US04202834
2-(2-Cyano-3,3-Diphenylacryloxy)Ethyl Allyl Ether
Into a round bottom flask equipped with magnetic stirrer, reflux condenser and drying tube was charged 20 ml. of dry tetrahydrofuran and 3.2 g. (0.011 moles) of 2-hydroxyethyl 2-cyano-3,3-diphenylacrylate and the solution is rapidly stirred. Then sodium hydride 0.79 g. (0.016 moles) as a 50% oil dispersion was added portionwise. To the resulting suspension was added 5.3 g. (0.044 moles) of allyl bromide and the mixture was heated at reflux (66° C.) for 5.5 hours. Upon cooling, a white insoluble solid (NaBr) was removed by filtration. The organic filtrate was evaporated, leaving as the desired product a pale yellow oil.

reactant | 2-hydroxyethyl 2-cyano-3,3-diphenylacrylate | 0.011 moles | C(#N)C(C(=O)OCCO)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO3
reactant | sodium hydride | 0.79 g | [H-].[Na+]
reactant | allyl bromide | 0.044 moles | C(C=C)Br | C3H5Br
product | 2-(2-Cyano-3,3-Diphenylacryloxy)Ethyl Allyl Ether | C(C=C)OCCOC(C(=C(C1=CC=CC=C1)C1=CC=CC=C1)C#N)=O | C21H19NO3
